### ISSUE TITLE
The roots of a Lie algebra are a root system.

### ISSUE THREAD

**Issue by ocfnash** [leanprover-community/mathlib4#10064]
We already have the definition of [root systems](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/RootSystem/Basic.html#RootSystem) and the definition of roots of a Lie algebra as well as basic facts such as the fact that [they span](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Lie/Killing.html#LieAlgebra.IsKilling.span_weight_eq_top).

We should finish the proof that the roots are actually a root system.

**Comment by ocfnash** [comment]
The following pull requests are work toward this goal:

- [x] https://github.com/leanprover-community/mathlib4/pull/10454
- [x] https://github.com/leanprover-community/mathlib4/pull/10548
- [x] https://github.com/leanprover-community/mathlib4/pull/10584
- [x] https://github.com/leanprover-community/mathlib4/pull/10638
- [x] https://github.com/leanprover-community/mathlib4/pull/10748
- [x] https://github.com/leanprover-community/mathlib4/pull/10803
- [ ] https://github.com/leanprover-community/mathlib4/pull/10879
- [ ] https://github.com/leanprover-community/mathlib4/pull/10893

**Comment by ocfnash** [comment]
The following two `sorry` captures the remaining work until this issue can be closed:
```lean
import Mathlib.Algebra.Lie.Weights.Killing
import Mathlib.LinearAlgebra.RootSystem.Basic

noncomputable section

namespace LieAlgebra.IsKilling

open LieModule Module

variable {K L : Type*} [Field K] [CharZero K] [LieRing L] [LieAlgebra K L]
  [IsKilling K L] [FiniteDimensional K L]
  {H : LieSubalgebra K L} [H.IsCartanSubalgebra] [IsTriangularizable K H L]

def reflectRoot
    {α β : Weight K H L} (hα : α.IsNonZero) (hβ : β.IsNonZero) : Weight K H L where
  toFun := β - β (coroot α) • α
  weightSpace_ne_bot' := by
    /- Several proofs of this. Probably best (though not shortest) is
      Bourbaki, Ch. VIII §2.2 Lemma 1 (page 80 of English translation, 88 of PDF)

      Approximate plan:
        1. define exponential of nilpotent things (independent of Lie theory)
        2. prove exponential of element with nilpotent adjoint endomorphism gives `LieEquiv`
           (slightly more is true: exponential of any nilpotent `LieDerivation` gives `LieEquiv`)
        3. prove adjoint endomorphism of element of rootspace is nilpotent
        4. establish the identities in Bourbaki lemma 1 for `θ := exp e * exp (- f) * exp e`
           where `e` and `f` belong to an `sl₂` triple associated to `α` provided by
           `exists_isSl2Triple_of_weight_isNonZero`.
    -/
    sorry

lemma reflectRoot_ne_zero
    {α β : Weight K H L} (hα : α.IsNonZero) (hβ : β.IsNonZero) :
    (reflectRoot hα hβ).IsNonZero := by
  sorry

variable (H)

/-- The root system of a finite-dimensional Lie algebra with non-degenerate Killing form over a
field of characteristic zero, relative to a splitting Cartan subalgebra. -/
def rootSystem :
    RootSystem {α : Weight K H L // α.IsNonZero} K (Dual K H) H :=
  RootSystem.mk'
    IsReflexive.toPerfectPairingDual
    { toFun := (↑)
      inj' := by
        intro α β h; ext x; simpa using LinearMap.congr_fun h x  }
    { toFun := coroot ∘ (↑)
      inj' := by rintro ⟨α, hα⟩ ⟨β, hβ⟩ h; simpa using h }
    (fun α ↦ by simpa using root_apply_coroot α.property)
    (by
      rintro ⟨α, hα⟩ - ⟨⟨β, hβ⟩, rfl⟩
      simp only [Function.Embedding.coeFn_mk, IsReflexive.toPerfectPairingDual_toLin,
        Function.comp_apply, Set.mem_range, Subtype.exists, exists_prop]
      exact ⟨reflectRoot hα hβ, reflectRoot_ne_zero hα hβ, rfl⟩)
    (by convert span_weight_isNonZero_eq_top K L H; ext; simp)

end LieAlgebra.IsKilling
```

**Comment by ocfnash** [comment]
@erdOne has done this and more, see [Zulip](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/The.20classification.20of.20Lie.20algebras/near/440721871) and [this gist](https://gist.github.com/erdOne/495e37bd797dd4e06ff82a623dcfd4a5)

We just need to get it into master!

**Comment by jcommelin** [comment]
Done!
